US06900215B2
Methoxyacetone (4.41 g, 50 mmol) was converted to 4,4-diethoxy-1-methoxybutan-2-one as described in Example 3 and condensed with 2-aminoimidazole hemisulfate as described in Example 2 to give 7-methoxymethylimidazo[1,2-α]pyrimidine (3.30 g, 40%) as a yellow solid: δH (360 MHz, CDCl3) 3.49 (3H, s), 4.63 (2H, s), 7.10 (1H, d, J 7), 7.51 (1H, d, J 1), 7.79 (1H, d, J 1), 8.42 (1H, d, J 7).

reactant | Methoxyacetone | 50 mmol, 4.41 g | COCC(C)=O | C4H8O2
reactant | 4,4-diethoxy-1-methoxybutan-2-one | C(C)OC(CC(COC)=O)OCC | C9H18O4
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-methoxymethylimidazo[1,2-α]pyrimidine | 3.30 g, 40% | COCC1=NC=2N(C=C1)C=CN2 | C8H9N3O
